US05521179
2-(3-Benzyloxycarbonylamino-2-oxo-6-phenethyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide.
Using a similar procedure to that described in Example 1, using ethyl acetate:dichloromethane (5:95) as the chromatography solvent, 2-(3-benzyloxycarbonylamino-2-oxo-6-phenethyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-2-hydroxy-1-isopropylpropyl)acetamide was oxidized to afford the title product; HPLC: tR =6.16, FR=2.0, column A, water:acetonitrile (2:3); MS: m/z=558(M+1). Analysis for C29H30F3N3O5 :

reactant | 2-(3-benzyloxycarbonylamino-2-oxo-6-phenethyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-2-hydroxy-1-isopropylpropyl)acetamide | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=CC1)CCC1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)O)C(C)C)=O | C29H32F3N3O5
solvent | ethyl acetate dichloromethane | C(C)(=O)OCC.ClCCl
product | 2-(3-Benzyloxycarbonylamino-2-oxo-6-phenethyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=CC1)CCC1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C29H30F3N3O5
